US08865726B2
To (S)-4-(4-fluorophenyl)-3-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one (80 mg, 0.14 mmol) in DCM (4 mL) was added TFA (1 mL) and the reaction was stirred for 4 hours at ambient temperature. The reaction was concentrated to dryness, and 7N ammonia in methanol was added to the residue. After concentration to dryness, the residue was purified by reverse phase chromatography (SP4, 12M, water/CH3CN 100:0 to 0:100, 20 column volumes) to yield (S)-3-(3-(4-(1H-pyrazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-(4-fluorophenyl)oxazolidin-2-one (35 mg, 57% yield) as a white solid. LCMS (APCI+) m/z 441.2 [M+H]+.

reactant | (S)-4-(4-fluorophenyl)-3-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one | 0.14 mmol, 80 mg | FC1=CC=C(C=C1)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC=C(C=C2)C2=NN(C=C2)COCC[Si](C)(C)C | C30H31FN6O3Si
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(3-(4-(1H-pyrazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-(4-fluorophenyl)oxazolidin-2-one | 35 mg, 57% yield | N1N=C(C=C1)C1=CC=C(C=C1)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C2=CC=C(C=C2)F)=O | C24H17FN6O2
